US09145415B2
To 2-((3-fluorophenyl)amino)-4-(propylamino)pyrimidine-5-carboxylic acid (E22, 19 mg), thionyl chloride (2 mL) was added at room temperature, and the mixture was stirred for 2 hours under reflux by heating. The reaction mixture was cooled to room temperature, and then toluene was added to the mixture. The solvent was evaporated under reduced pressure to obtain 2-((3-fluorophenyl)amino)-4-(propylamino)pyrimidine-5-carbonyl chloride (E23) as white solid.

reactant | 2-((3-fluorophenyl)amino)-4-(propylamino)pyrimidine-5-carboxylic acid | 19 mg | FC=1C=C(C=CC1)NC1=NC=C(C(=N1)NCCC)C(=O)O | C14H15FN4O2
reactant | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-((3-fluorophenyl)amino)-4-(propylamino)pyrimidine-5-carbonyl chloride | FC=1C=C(C=CC1)NC1=NC=C(C(=N1)NCCC)C(=O)Cl | C14H14ClFN4O
